US05958942
3-Methyl-1-[5-(trifluoroacetamido)pentyl]-1,4,7b-triazacyclopent[cd]inden-2-one
To a solution of 2.58 g (10.0 mmol) of 3-methyl-1-[5-(amino)pentyl]-1,4,7b-triazacyclopent[cd]inden-2-one and 1.81 ml (13.0 mmol) of triethylamine in 100 ml of acetonitrile was added, while stirring under ice-cooling, 1.43 ml (12.0 mmol) of trifluoroacetic acid ethyl ester. The mixture was stirred for one hour at the same temperature. The solvent was distilled off. To the residue was added ethyl acetate--tetrahydrofuran. The mixture was washed with an aqueous saline solution, and dried over anhydrous magnesium sulfate. The solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate), which was recrystallized from ethyl acetate-n-hexane to afford 2.57 g (72.6%, a pale yellow crystals) of the desired compound.

reactant | 3-methyl-1-[5-(amino)pentyl]-1,4,7b-triazacyclopent[cd]inden-2-one | 10.0 mmol, 2.58 g | CC=1N=C2N3C1C(N(C3=CC=C2)CCCCCN)=O | C14H18N4O
reactant | triethylamine | 13.0 mmol, 1.81 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid ethyl ester | 12.0 mmol, 1.43 ml | C(C)OC(C(F)(F)F)=O | C4H5F3O2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 3-Methyl-1-[5-(trifluoroacetamido)pentyl]-1,4,7b-triazacyclopent[cd]inden-2-one | CC=1N=C2N3C1C(N(C3=CC=C2)CCCCCNC(C(F)(F)F)=O)=O | C16H17F3N4O2
